* gnetlist -L ../.. -g spice-noqsi -o test_CMOS_Inverter.net test_CMOS_Inverter.sch
* SPICE file generated by spice-noqsi version 20170819
* Send requests or bug reports to jpd@noqsi.com
X1 Vin 2 INV1
Vs Vss GND 0V
Vin Vin GND AC 1 DC Vdd/2
Vd Vdd GND 'SUPPLY'
V_IP_out 2 1 DC 0V  
Cout GND 1 1n      
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
.GLOBAL Vdd Vss
.INCLUDE CMOS_Inverter.net
.control
ac lin 100 1 10G
let Gm=(i(v_ip_out))/Vin
plot Gm
print Gm > Transconductance_of_CMOS_inverter.log
.endc

