* gnetlist -L ../.. -g spice-noqsi -o test_CMOS_Inverter.net test_CMOS_Inverter.sch
* SPICE file generated by spice-noqsi version 20170819
* Send requests or bug reports to jpd@noqsi.com
X1 Vin 1 INV1
Vs Vss GND 0V
Vin Vin GND DC 'SUPPLY/2' AC 1
Vd Vdd GND 'SUPPLY'
V_IP_out Cout 1 DC 0V  
R1 GND Cout 100G      
Cout GND Cout 1n      
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
.GLOBAL Vdd Vss
.INCLUDE CMOS_Inverter.net
.control
save all @m.x1.m1[gm]
save all @m.x1.m4[gm]
ac lin 100 1 10G
print @m.x1.m1[gm]
print @m.x1.m4[gm]
let Gm=(i(v_ip_out))/Vin
plot Gm
print Gm > Transconductance_of_CMOS_inverter.log
.endc

