* gnetlist -L ../.. -g spice-noqsi -o test_CMOS_Inverter.net test_CMOS_Inverter.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.GLOBAL Vdd Vss
.INCLUDE CMOS_Inverter.net
.PARAM SUPPLY=3.3v 
.csparam vcd='SUPPLY'
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
X1 Vin Vout INV1
Cout GND Cout 1n      
R1 GND Cout 100G      
V_IP_out Cout Vout DC 0V  
Vin Vin GND DC 'SUPPLY/2' AC 1
.control
save all @m.x1.m1[gm]
save all @m.x1.m2[gm]
save all @m.x1.m1[gds]
save all @m.x1.m2[gds]
op
print all
dc vin 0 $&vcd 0.1
plot vout
let d1=deriv(vout)
let d2=deriv(vin)
let d1d2=d1/d2
plot d1d2
ac lin 100 1 10G
let Gm=(i(v_ip_out))/Vin
plot Gm
print Gm > Transconductance_of_CMOS_inverter.log
.endc

